US05580986
5. 3-Amino-1-methyl-5-methylmercaptopyrazole
5.55 g (33.0 mmol) 3-amino-4-cyano-1-methyl-5-methylmercaptopyrazole heated with 50 ml 32% caustic soda at boiling for 24 hours. The reaction mixture was cooled, made slightly acidic with aqueous sodium hydrogen phosphate, heated for 8 hours at 50° C. and extracted with ethyl acetate. The organic phase was dried over sodium sulfate, concentrated and the residue purified by silica gel chromatography (hexane/ethyl acetate 1:1).

reactant | 3-amino-4-cyano-1-methyl-5-methylmercaptopyrazole | 33.0 mmol, 5.55 g | NC1=NN(C(=C1C#N)SC)C | C6H8N4S
reactant | sodium hydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | caustic soda | 50 ml | [OH-].[Na+]
product | 3-Amino-1-methyl-5-methylmercaptopyrazole | NC1=NN(C(=C1)SC)C | C5H9N3S
